2129-03-17 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Patient is a 68 year old male with asthma, hypertension, and
   osteoarthritis now post-operative day 2 from a left total knee
   replacement, transfered to the ICU for hypotension, tachycardia, and
   acute renal failure.
   24 Hour Events:
   - V/Q scan low likihood of PE, pt kept on lovenox 30 q12
   - EF 75%, no RV strain, severe resting LVOT gradient - possibly
   dehydrated, pt was given 1L bolus
   - Temp 100.8, but already cultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-16**] 09:01 AM
   Ceftriaxone - [**2129-3-17**] 05:05 AM
   Flowsheet Data as of  [**2129-3-17**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 116 (108 - 124) bpm
   BP: 128/54(69) {111/49(63) - 146/79(85)} mmHg
   RR: 23 (16 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,895 mL
                                                                    225 mL
   PO:
                                                                    850 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,045 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  1,043 mL
                                                                    750 mL
   Urine:
                                                                    863 mL
                                                                    750 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                     80 mL
   Balance:
                                                                  2,852 mL
                                                                   -525 mL
   Physical Examination
   GENERAL: Pleasant male, in NAD, appropriate in his interaction
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD. No
   angioedema.
   CARDIAC: Tachycardic, no rubs/murmurs/[**Last Name (un) 4808**].  JVP= flat
   LUNGS: CTAB, good air movement biaterally. No wheezes/rubs/rhonchi. No
   stridor.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Left knee with dressing in place, drain with serous fluid.
   Pulses equal and strong. BP equal bilaterally.  Warm extremities but no
   evidence of vasodilation or vasoconstriction.
   SKIN: No ecchymoses. Macular rash along trunk, arms.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   162 K/uL
   7.7 g/dL
   144 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.2 mEq/L
   25 mg/dL
   102 mEq/L
   135 mEq/L
   21.7 %
   7.1 K/uL
        [image002.jpg]
                             [**2129-3-16**]  08:07 AM
                             [**2129-3-16**]  08:10 AM
                             [**2129-3-17**]  04:36 AM
   WBC
   9.6
   7.1
   Hct
   28.4
   33
   21.7
   Plt
   205
   162
   Cr
   2.2
   1.3
   Glucose
   155
   143
   144
   Other labs: PT / PTT / INR:14.9/38.6/1.3, Lactic Acid:2.4 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Patient is a 68 year old male with asthma, hypertension, and
   osteoarthritis now post-operative day 2 from a left total knee
   replacement, transfered to the ICU for hypotension, tachycardia, and
   acute renal failure.
   .
   #. Hypotension: Differential includes hypovolemia from poor PO intake
   coupled with continuing home anti-hypertensive medications and fluid
   shifts and losses post-operatively, pulmonary embolism (lack of
   worsening A-a gradient and appropriate prophylaxis make this less
   likely), cardiac event (no symptoms to suggest this, and flat cardiac
   enzymes), medication reaction (no current anaphylaxis symptoms, but
   could have been related to dilaudid given rash and apparent development
   of hypotension subsequently, could be histamine mediated reaction). No
   evidence to suggest bleeding (HCT stable), or pulmonary etiology (eg
   PTX). Given rising lactate and hypotension with recent surgery, sepsis
   is also a possibility. Concurrent renal insufficiency with hypotension
   envoke possibility of dissection, however patient was not hypertensive,
   has equal pulses, and no symptoms to support this (very mild back pain
   is chronic). Patient had not received a lot of sedating or pain
   medications that could account either, though they would be slower to
   clear given ARF.
   - Repeat EKG in morning, given lack of symptoms will not cycle enzymes
   as were WNL when hypotension had been going on for >6 hours
   - Heparin gtt for possible PE, will follow up with V/Q scan given dye
   load of CTA would not be ideal in setting of renal failure
   - Consider transthoracic echo to evaluate LVEF, structure
   - Blood, urine cultures for possible infectious etiologies
   - Will see if can add tryptase to labs from [**3-14**] to see if this supports
   reaction to dilaudid PCA
   - Aggressive IVF resuscitation, targeting MAP >60, as may not make as
   much urine if truly had ATN.
   .
   #. Tachycardia: Patient in sinus tachycardia, was as high as 130,
   coming down to 100's to 110's with IVFs. Suspect this is appropriate
   response to compensate for necessary cardiac output given intravascular
   depletion/hemoconcentration as supported by rise in creatinine and HCT.
   - Monitoring trend, f/u EKG in AM
   - IVF
   .
   #.  Acute renal failure, decreased urine output:
   Patient had an acute rise in his creatinine today from 0.9 to 1.9, now
   up to 2.1. His urine output has also markedly declined. Suspect that
   given persistent hypotension he likely has some degree of ATN. His FeNa
   supports a pre-renal etiology. This may have been due to poor PO intake
   peri and post-operatively, intra-operative fluid shifts and losses, and
   continuation of his home BP regimen. No known exposure to dye, and no
   clear nephrotoxic medications administered. Post-obstructive less
   likely given functioning foley in place.
   - IVF rescusitation
   - Urine electrolytes sent
   - Repeat U/A with sediment now
   - Monitor UOP, creatinine trend, if worsening consider renal consult
   - Maintain MAP >60 to optimize perfusion
   .
   #. Total Knee replacement: Orthopedics aware of transfer, appreciate
   co-management of patient. Drain in place currently.
   .
   #. Asthma: Currently without any respiratory complaints. Although mild
   dyspnea earlier in evening could have been secondary to PE or other
   etiology, given improvement after nebulizer and typical nature, suspect
   secondary to long standing asthma.
   - Continue home medications: fluticasone, holding albuterol given
   tachycardia (xoponex if needed)
   .
   #. Anemia: Stable since post-operative day 1 (pre-operative HCT was
   38). No evidence of bleeding. Guaiac negative when checked upstairs.
   - Continue to monitor trend.
   .
   #. Rash: Suspect this is a drug rash, either secondary to ceftaz or
   dilaudid, as he received both on day of surgery and morning following.
   His symptoms started the morning of POD 1. His rash continues to
   improve and is less itchy today.
   - Sarna, atarax/benadryl PRN
   - Monitor trend, if worsens consider derm c/s
   .
   #. Hypertension: Holding medications in setting of hypotension. Will
   likely need to restart once stabalized.
   .
   #. FEN: IVF boluses as noted above. Repleting electrolytes, regular
   diet once stabalized.
   .
   # PPX:
   -DVT ppx--on heparin gtt until V/Q completed
   -Bowel regimen: Colace, senna
   -Pain management with percocet for post-operative pain
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-3-16**] 02:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
                   1. Acetaminophen 650 mg PO Q6H:PRN
   6. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 **]
   2. CeftriaXONE 1 g IV Q24H
   7. Morphine Sulfate 2-4 mg IV Q4H:PRN pain
   3. Clobetasol Propionate 0.05% Cream 1 Appl TP [**Hospital1 **]
   8. Oxycodone-Acetaminophen [**1-7**] TAB PO Q6H:PRN
   4. Enoxaparin Sodium 30 mg SC Q12H
   9. Sarna Lotion 1 Appl TP QID:PRN
   5. Ferrous Sulfate 325 mg PO DAILY
   10. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY
                   11. Lidocaine 5% Patch 2 PTCH TD DAILY

2129-03-18 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 68 year old male with asthma,
   hypertension, and osteoarthritis now post-operative day 2 from a left
   total knee replacement, transfered to the ICU for hypotension,
   tachycardia, and acute renal failure.
   24 Hour Events:
 URINE CULTURE - At [**2129-3-17**] 07:52 PM
 BLOOD CULTURED - At [**2129-3-17**] 08:33 PM
 FEVER - 101.1
F - [**2129-3-17**] 08:00 PM
   - Still tachycardic
   - Has hemoglobin electrophoresis labs pending from outpatient
   - Repeat hct 24
   - Run of VTACH at MN, stat lytes checked (stable). Pt asymptomatic,
   awake during arrhythmia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-16**] 09:01 AM
   Ceftriaxone - [**2129-3-17**] 05:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-18**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.7
C (99.8
   HR: 105 (99 - 132) bpm
   BP: 158/79(97) {123/49(70) - 170/80(97)} mmHg
   RR: 16 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,626 mL
                                                                    574 mL
   PO:
                                                                    825 mL
             TF:
   IVF:
                                                                    801 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                  1,610 mL
   Urine:
                                                                  3,190 mL
                                                                  1,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,564 mL
                                                                 -1,036 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GENERAL: Pleasant male, in NAD, appropriate in his interaction
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD. No
   angioedema.
   CARDIAC: Tachycardic, no rubs/murmurs/[**Last Name (un) 4808**].  JVP= flat
   LUNGS: CTAB, good air movement biaterally. No wheezes/rubs/rhonchi. No
   stridor.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Left knee with dressing in place, drain with serous fluid.
   Pulses equal and strong. BP equal bilaterally.  Warm extremities.
   SKIN: No ecchymoses. Macular rash along trunk, arms.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   191 K/uL
   7.1 g/dL
   118 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.9 mEq/L
   14 mg/dL
   104 mEq/L
   138 mEq/L
   21.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2129-3-16**]  08:07 AM
                             [**2129-3-16**]  08:10 AM
                             [**2129-3-17**]  04:36 AM
                             [**2129-3-17**]  12:47 PM
                             [**2129-3-18**]  12:28 AM
   WBC
   9.6
   7.1
   7.9
   6.5
   Hct
   28.4
   33
   21.7
   24.1
   21.1
   Plt
   [**Telephone/Fax (3) 5152**]91
   Cr
   2.2
   1.3
   1.0
   Glucose
   155
   143
   144
   118
   Other labs: PT / PTT / INR:14.9/38.6/1.3, ALT / AST:13/24, Alk Phos / T
   Bili:39/0.5, Differential-Neuts:85.6 %, Lymph:9.2 %, Mono:4.8 %,
   Eos:0.5 %, Lactic Acid:2.4 mmol/L, LDH:175 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   Resolved with fluids.
   Have ruled out PE, cardiac event with normal ECHO and VQ scan.  Also no
   sign of infection.
   - cultures neg to date, will f/u
 now off antibiotics as have been neg
   x 48hrs
 CARDIOMYOPATHY, HYPERTROPHIC
   - Plan to restart beta-blockade today given v-tach overnight.
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   S/p left total Knee replacement: tolerating PT.
   - continue pain control with percocet.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   In conjunction with decreased urine output: Improved with IVF, presumed
   prerenal vs ATN.
   - Now Cr at 1.0
   - No plan for additional IVF as pt taking adequate PO and IVF not
   helping tachycardia
 TACHYCARDIA, OTHER
   Remains in sinus tachycardia, even after fluid resuscitation. Pt
   asymptomatic.
   - Monitoring trend, f/u EKG in AM
   - control pain
 HYPOXEMIA: Resolved.
   # Anemia: Hct dropped more than expected for knee surgery. Today was
   21. No clear evidence of active bleeding. No e/o GIB as currently
   constipated. Hemolysis labs negative, but does have schistocytes and
   other anomalous RBC morphologic findings.
   - known to have gotten large bolus of Heparin (PTT was over 150) and
   then lovenox simultaneously
   - no signs or symptoms of RP or thigh bleed
   - Heme Onc consult today
   - Transfuse 1u pRBC
   - discuss with ortho
   #. Asthma: Breathing comfortably
   - Continue home medications: fluticasone, holding albuterol given
   tachycardia (xoponex if needed)
   #. Rash: Suspect this is a drug rash, either secondary to ceftaz or
   dilaudid, as he received both on day of surgery and morning following.
   His symptoms started the morning of POD 1. His rash continues to
   improve and is less itchy today.
   - Sarna, atarax.
   - Monitor trend, if worsens consider derm c/s
   - Benadryl prn
   #. Hypertension: Restart home antihypertensives.
   ICU Care
   Nutrition: PO diet
   Lines:
   20 Gauge - [**2129-3-16**] 02:15 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ppi
   Code status: Full code

2129-03-19 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Patient is a 68 year old male with asthma,
   hypertension, and osteoarthritis now post-operative day 2 from a left
   total knee replacement, transfered to the ICU for hypotension,
   tachycardia, and acute renal failure.
   24 Hour Events:
 FEVER - 101.1
F - [**2129-3-18**] 10:20 AM
   - Hct 21 again but hemolysis labs neg. No obvious signs of bleeding and
   CT abdomen and pelvis/thigh neg for bleed. - hemolysis labs neg,
   - Hem: sending off heme requested labs and transfusing 2U.
   - refused HIV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-16**] 09:01 AM
   Ceftriaxone - [**2129-3-17**] 05:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-19**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 106 (97 - 124) bpm
   BP: 159/71(90) {123/60(75) - 171/108(116)} mmHg
   RR: 27 (11 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,882 mL
                                                                    676 mL
   PO:
                                                                  1,140 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    742 mL
   Blood products:
   316 mL
   Total out:
                                                                  3,690 mL
                                                                    630 mL
   Urine:
                                                                  3,690 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,808 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   GENERAL: Pleasant male, in NAD, appropriate in his interaction
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD. No
   angioedema.
   CARDIAC: Tachycardic, no rubs/murmurs/[**Last Name (un) 4808**].  JVP= flat
   LUNGS: CTAB, good air movement biaterally. No wheezes/rubs/rhonchi. No
   stridor.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses. Left knee with dressing in place, drain with serous fluid.
   Pulses equal and strong. BP equal bilaterally.  Warm extremities.
   SKIN: No ecchymoses. Macular rash along trunk, arms.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   207 K/uL
   6.8 g/dL
   102 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   13 mg/dL
   105 mEq/L
   141 mEq/L
   20.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2129-3-16**]  08:07 AM
                             [**2129-3-16**]  08:10 AM
                             [**2129-3-17**]  04:36 AM
                             [**2129-3-17**]  12:47 PM
                             [**2129-3-18**]  12:28 AM
                             [**2129-3-18**]  03:22 PM
                             [**2129-3-18**]  03:42 PM
                             [**2129-3-19**]  03:07 AM
   WBC
   9.6
   7.1
   7.9
   6.5
   5.9
   Hct
   28.4
   33
   21.7
   24.1
   21.1
   22.2
   20.8
   Plt
   [**Telephone/Fax (3) 5152**]91
   207
   Cr
   2.2
   1.3
   1.0
   0.9
   Glucose
   155
   143
   144
   118
   127
   102
   Other labs: PT / PTT / INR:14.9/38.6/1.3, ALT / AST:38/52, Alk Phos / T
   Bili:50/0.8, Differential-Neuts:67.8 %, Lymph:21.3 %, Mono:7.4 %,
   Eos:3.4 %, Lactic Acid:2.4 mmol/L, LDH:250 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   Resolved with fluids.
   Have ruled out PE, cardiac event with normal ECHO and VQ scan.  Also no
   sign of infection.
   - cultures neg to date, will f/u
 now off antibiotics as have been neg
   x 48hrs
 CARDIOMYOPATHY, HYPERTROPHIC
   - Plan to restart beta-blockade today given v-tach overnight.
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
   S/p left total Knee replacement: tolerating PT.
   - continue pain control with percocet.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   In conjunction with decreased urine output: Improved with IVF, presumed
   prerenal vs ATN.
   - Now Cr at 1.0
   - No plan for additional IVF as pt taking adequate PO and IVF not
   helping tachycardia
 TACHYCARDIA, OTHER
   Remains in sinus tachycardia, even after fluid resuscitation. Pt
   asymptomatic.
   - Monitoring trend, f/u EKG in AM
   - control pain
 HYPOXEMIA: Resolved.
   # Anemia: Hct dropped more than expected for knee surgery. Today was
   21. No clear evidence of active bleeding. No e/o GIB as currently
   constipated. Hemolysis labs negative, but does have schistocytes and
   other anomalous RBC morphologic findings.
   - known to have gotten large bolus of Heparin (PTT was over 150) and
   then lovenox simultaneously
   - no signs or symptoms of RP or thigh bleed
   - Heme Onc consult today
   - Transfuse 1u pRBC
   - discuss with ortho
   #. Asthma: Breathing comfortably
   - Continue home medications: fluticasone, holding albuterol given
   tachycardia (xoponex if needed)
   #. Rash: Suspect this is a drug rash, either secondary to ceftaz or
   dilaudid, as he received both on day of surgery and morning following.
   His symptoms started the morning of POD 1. His rash continues to
   improve and is less itchy today.
   - Sarna, atarax.
   - Monitor trend, if worsens consider derm c/s
   - Benadryl prn
   #. Hypertension: Restart home antihypertensives.
   ICU Care
   Nutrition: PO diet
   Lines:
   20 Gauge - [**2129-3-16**] 02:15 AM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ppi
   Code status: Full code

2129-03-19 08:51:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo male with asthma, HTN s/p knee replacement with post-operative
   hypotension and oliguria.
   In [**Hospital Unit Name 4**], BP responded to volume resuscitation, remained tachycardia.
   Course notable for acute anemia with unclear etiology with no bleeding
   source seen on CT.
   24 Hour Events:
 FEVER - 101.1
F - [**2129-3-18**] 10:20 AM
   *Heme evaluation
   *Negative CT abd/pelvis
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-16**] 09:01 AM
   Ceftriaxone - [**2129-3-17**] 05:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   lansoprazole, ferrous sulfate, prn lidocaine patch, lovenox 30mg AQ
   q12, colace, lopressor, prn percocet
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-19**] 08:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 106 (97 - 124) bpm
   BP: 159/71(90) {123/60(75) - 165/108(116)} mmHg
   RR: 27 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,882 mL
                                                                    722 mL
   PO:
                                                                  1,140 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    742 mL
   Blood products:
   362 mL
   Total out:
                                                                  3,690 mL
                                                                    630 mL
   Urine:
                                                                  3,690 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,808 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, conversant
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: rare
   end-expiratory wheezes, few rales at bases )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing, left knee dressing dry and
   clear, bilateral SCD
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   6.8 g/dL
   207 K/uL
   102 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.9 mEq/L
   13 mg/dL
   105 mEq/L
   141 mEq/L
   20.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2129-3-16**]  08:07 AM
                             [**2129-3-16**]  08:10 AM
                             [**2129-3-17**]  04:36 AM
                             [**2129-3-17**]  12:47 PM
                             [**2129-3-18**]  12:28 AM
                             [**2129-3-18**]  03:22 PM
                             [**2129-3-18**]  03:42 PM
                             [**2129-3-19**]  03:07 AM
   WBC
   9.6
   7.1
   7.9
   6.5
   5.9
   Hct
   28.4
   33
   21.7
   24.1
   21.1
   22.2
   20.8
   Plt
   [**Telephone/Fax (3) 5152**]91
   207
   Cr
   2.2
   1.3
   1.0
   0.9
   Glucose
   155
   143
   144
   118
   127
   102
   Other labs: PT / PTT / INR:14.9/38.6/1.3, ALT / AST:38/52, Alk Phos / T
   Bili:50/0.8, Differential-Neuts:67.8 %, Lymph:21.3 %, Mono:7.4 %,
   Eos:3.4 %, Lactic Acid:2.4 mmol/L, LDH:250 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: Echo: small LV, large gradient
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 CARDIOMYOPATHY, HYPERTROPHIC
 ARTHRITIS, OSTEO (OSTEOARTHRITIS, OA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 HYPOXEMIA
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANEMIA, OTHER
   68 yo male s/p knee surgery c/b post-operative hypotension/renal
   insufficiency, resolved with volume resuscitation. In the [**Hospital Unit Name 4**], has
   also developed anemia of unclear etiology, but with no obvious bleeding
   1.       Anemia: no evidence of active bleeding either by pt history or
   by CT scan. Hematology team following. Continuing to monitor hct
s with
   transfusions as needed. Direct Coombs, repeat hemolysis labs, Fe
   studies pending.
   2.       Hypotension: resolved, has not required recent volume
   resuscitation
   3.        ARF/ATN: resolved with volume resuscitation
   4.       Fevers: source remains unclear with negative CXR, blood
   cultures, urine cultures. Currently not on abx
   5.       asthma: continue inhalers
   6.       Rest of plan per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2129-3-18**] 04:30 PM
   Prophylaxis:
   DVT: lovenox/SCD
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: